US03998958
To a suspension of 6.73 g. (0.05 mole) of 1 -methyl-2 -iminopyrrolidine hydrochloride in 100 ml. of benzene is added 2 ml. of water followed by 5 ml. of 50 % NaOH. After stirring for 5 min., the benzene layer is decanted onto anhydrous potassium carbonate. The extraction is repeated twice with 75 ml. portions of fresh benzene. The combined extracts are filtered from drying agent (dicalite pad and suction). To the filtrate is added in one portion with stirring 6.66 g. (0.05 mole) of p-tolylisocyanate. After stirring for 5 hours, the solution is taken to dryness in vacuo and the resulting solid is recrystallized from ethyl acetate to give 1 -(1 -methyl-2 -pyrrolidylidene)-3 -p-tolylurea, m.p. = 136°-137° C. A final recrystallization from acetone shows the product melting at 149°-150° C. Thin layer chromatography (TLC) indicates both samples to be identical in purity. Apparently the two melting points represent polymorphic forms.

reactant | 1 -methyl-2 -iminopyrrolidine hydrochloride | 0.05 mole | Cl.CN1C(CCC1)=N
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | NaOH | [OH-].[Na+]
reactant | p-tolylisocyanate | 0.05 mole | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
solvent | water | O | H2O
product | 1 -(1 -methyl-2 -pyrrolidylidene)-3 -p-tolylurea | CN1C(CCC1)=NC(=O)NC1=CC=C(C=C1)C | C13H17N3O
